US06077850
2-Amino-5-chlorobenzyl alcohol (4.8 g, 30 mmol) and activated manganese (IV) oxide (21 g, 240 mmol) were refluxed in chloroform (100 mL) for 1 hour. The contents were allowed to cool, filtered through diatomaceous earth and concentrated in vacuo to afford the 2-amino-5-chlorobenzaldehyde as a dark solid (4.14 g, 81%): mp 74-76° C. 1H NMR (CDCl3, 300 MHz) 9.80 (s, 1H), 7.42 (s, 1H), 7.23 (d, 1H, J=7.0 Hz), 6.60 (d, 1H, J=7.0 Hz).

reactant | 2-Amino-5-chlorobenzyl alcohol | 30 mmol, 4.8 g | NC1=C(CO)C=C(C=C1)Cl | C7H8ClNO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) oxide | 240 mmol, 21 g | [O-2].[Mn+4].[O-2]
product | 2-amino-5-chlorobenzaldehyde | 4.14 g, 81% | NC1=C(C=O)C=C(C=C1)Cl | C7H6ClNO
